US05668137
2-Amino-5-chloropyrazine (1.7 g) was dissolved in chloroform (190 ml) and pyridine (1.3 ml) was added under an argon atmosphere. The flask and its contents were protected from light and a solution of bromine (0.7 ml) in chloroform (85 ml) was added over a period of 1 hour. After stirring for 2 hours more bromine (0.07 ml) in chloroform (8.5 ml) was added and, after stirring for 30 minutes, pyridine (0.2 ml) was added. The reaction mixture was stirred for a further 30 minutes then washed with water (50 ml) and the organic phase was separated. The solvent was removed by evaporation and the residue was purified by chromatography through a bed of silica (90 g), eluting with hexane (200 ml) followed by dichloromethane. Dichloromethane fractions containing the product were evaporated to give 2-amino-3-bromo-5-chloropyrazine (1.68 g); 1H NMR (d6DMSO): 6.94 (br s, 2H), 8.09 (s, 1H); mass spectrum (+ve CI): 208 (M+H)+.

reactant | 2-Amino-5-chloropyrazine | 1.7 g | NC1=NC=C(N=C1)Cl | C4H4ClN3
reactant | pyridine | 1.3 ml | N1=CC=CC=C1 | C5H5N
reactant | bromine | 0.7 ml | BrBr | Br2
reactant | bromine | 0.07 ml | BrBr | Br2
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 190 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 85 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 8.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-3-bromo-5-chloropyrazine | 1.68 g | NC1=NC=C(N=C1Br)Cl | C4H3BrClN3
